US05378689
5(a) (2R, 4S, 5S)-5-[N-(t-Butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-6-cyclohexyl-4-hydroxy-2, N-dimethylhexanamide
A mixture of 200 mg (0.56 mmole) of (2R, 4S, 5S)-5-(t-butoxycarbonyl)amino-6-cyclohexyl-4-hydroxy-2,N-dimethylhexanamide (prepared as described in Preparation 5) and 4 ml of a 4N solution of hydrogen chloride in dioxane was stirred at room temperature for 30 minutes. At the end of this time, the solvent was removed by distillation under reduced pressure, and the resulting residue was mixed with benzene; the solvent was then removed by distillation under reduced pressure. This operation was repeated three times in total. After drying the final residue in vacuo for 8 hours, the dried material was suspended in 10 ml of anhydrous tetrahydrofuran. 150 mg (1.68 mmole) of N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanine were then added to the suspension. After this, 0.1 ml (0.67 mmole) of 95% diethyl cyanophosphonate and 0.23 ml (1.68 mmole) of triethylamine were added to the mixture, whilst ice-cooling and under an atmosphere of nitrogen. The mixture was then stirred for 15 hours. At the end of this time, the reaction solvent was stripped from the mixture by distillation under reduced pressure and the residue was mixed with water. The precipitate which deposited was collected by filtration and washed with water. It was then dissolved in methylene chloride and the resulting solution was dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure, to afford 260 mg of the title compound as a pale yellow powder, melting at 158°-160° C.

reactant | (2R, 4S, 5S)-5-(t-butoxycarbonyl)amino-6-cyclohexyl-4-hydroxy-2,N-dimethylhexanamide | 0.56 mmole, 200 mg | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NC)C)O)CC1CCCCC1 | C19H36N2O4
reactant | hydrogen chloride | Cl | ClH
reactant | N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanine | 1.68 mmole, 150 mg | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)O | C11H16N2O4S
reactant | diethyl cyanophosphonate | 0.67 mmole, 0.1 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 1.68 mmole, 0.23 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2R, 4S, 5S)-5-[N-(t-Butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-6-cyclohexyl-4-hydroxy-2, N-dimethylhexanamide | 260 mg | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)N[C@H]([C@H](C[C@H](C(=O)NC)C)O)CC1CCCCC1 | C25H42N4O5S
